US20010047031A1
A solution of (RS)-3-benzyl-2,2-dichlorocyclobutanone (0.3 g. 1.3 mmol) in acetic acid (3 ml) was refluxed for 1 hour in the presence of zinc (0.86 g, 13.1 mmol. powder). The reaction mixture was cooled to room temperature and filtered over decalite. The filtrate was neutralized with saturated NaHCO3. The organic phase was washed successively with H2O and brine, dried over Na2SO4, and concentrated. The residue was chromatographed over silica gel (hexane-ethylacetate 4:1) to provide 3-benzyl-cyclobutanone (0.16 g, 76%) as a colorless oil, MS: m/e=160.2 (M+).

reactant | (RS)-3-benzyl-2,2-dichlorocyclobutanone | 1.3 mmol, 0.3 g | C(C1=CC=CC=C1)C1C(C(C1)=O)(Cl)Cl | C11H10Cl2O
solvent | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | 13.1 mmol, 0.86 g | [Zn] | Zn
product | 3-benzyl-cyclobutanone | 0.16 g, 76% | C(C1=CC=CC=C1)C1CC(C1)=O | C11H12O
